US07087601B2
A mixture of 2-[3-bromo-4-(bromomethyl)phenyl]-1,3-benzoxazole (156 mg, 0.42 mmol), and sodium cyanide (41 mg, 0.84 mmol) in DMF:H2O (3:1, 16 mL) was stirred at rt for 18 h. Water (50 mL) was added to the reaction mixture and it was extracted with EtOAc (3×). The organics were combined, washed with brine (2×), dried over Na2SO4, and evaporated to dryness to give an orange oil. The crude oil was purified by flash chromatography eluting with a gradient of EtOAc:hexane (0 to 30 min: 0 to 20% EtOAc) to afford the desired [4-(1,3-benzoxazol-2-yl)-2-bromophenyl]acetonitrile as a yellow solid (M.p. 190–191° C.). 1H NMR (CDCl3, 300 MHz) δ 8.50 (s, 1H), 8.22 (dd, 1H), 7.78 (m, 1H), 7.70 (d, 1H), 7.60 (m, 1H), 7.39 (m, 2H), 3.91 (s, 2H). MS (ESI) 313 (M)+.

reactant | 2-[3-bromo-4-(bromomethyl)phenyl]-1,3-benzoxazole | 0.42 mmol, 156 mg | BrC=1C=C(C=CC1CBr)C=1OC2=C(N1)C=CC=C2 | C14H9Br2NO
reactant | sodium cyanide | 0.84 mmol, 41 mg | [C-]#N.[Na+]
reactant | Water | 50 mL | O | H2O
solvent | DMF H2O | 16 mL | CN(C)C=O.O
product | [4-(1,3-benzoxazol-2-yl)-2-bromophenyl]acetonitrile | O1C(=NC2=C1C=CC=C2)C2=CC(=C(C=C2)CC#N)Br | C15H9BrN2O
